US07034039B2
Ethyl 2-(4-butoxy-3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylate (0.17 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl; acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give ethyl 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carboxylate hydrochloride (0.14 g, 93.3%) as crystals.

reactant | Ethyl 2-(4-butoxy-3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylate | 0.3 mmol, 0.17 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C=1SC(=C(N1)C)C(=O)OCC)=O)CC(C)C)CNC(=O)OC(C)(C)C | C30H41N3O6S
reactant | acetate | 5 ml | C(C)(=O)[O-]
reactant | hydrogen chloride | 4N | Cl | ClH
product | ethyl 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carboxylate hydrochloride | 0.14 g, 93.3% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC(=C(N1)C)C(=O)OCC)=O)CC(C)C | InChI=1S/C25H33N3O4S.ClH/c1-6-8-11-32-21-19-12-17(23-27-16(5)22(33-23)25(30)31-7-2)9-10-18(19)24(29)28(14-15(3)4)20(21)13-26;/h9-10,12,15H,6-8,11,13-14,26H2,1-5H3;1H
